US06544985B2
3-(2-Isopropyl-3H-imidazol-4-yl)-benzoic acid methyl ester was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-[3-(2-isopropyl-3H-imidazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (0.25 g) as a pale-yellow oil.

reactant | 3-(2-Isopropyl-3H-imidazol-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1NC(=NC1)C(C)C)=O | C14H16N2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(2-isopropyl-3H-imidazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.25 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1NC(=NC1)C(C)C)=O | C19H24N2O3
